US04371370
First Step: Preparation of 1,4-bis-(2',4'-dinitrophenoxy)-butan-2,3-diol.
A mixture of 19.2 gm (0.1 mol) of 2,4-dinitrophenol (96%), 12.4 gm (0.05 mol) of 1,4-dibromo-butan-2,3-diol, and 6.9 gm (0.05 mol) of potassium carbonate was refluxed for six hours in 20 ml of diethyleneglycoldimethyl ether. After cooling, the product was removed by suction, washed with water, and dried. The intermediate obtained melted at 207°-210° C.

reactant | 2,4-dinitrophenol | 0.1 mol, 19.2 gm | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | 1,4-dibromo-butan-2,3-diol | 0.05 mol, 12.4 gm | BrCC(C(CBr)O)O | C4H8Br2O2
reactant | potassium carbonate | 0.05 mol, 6.9 gm | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
product | 1,4-bis-(2',4'-dinitrophenoxy)-butan-2,3-diol | [N+](=O)([O-])C1=C(OCC(C(COC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])O)O)C=CC(=C1)[N+](=O)[O-] | C16H14N4O12
